US07829560B2
A solution of N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide (0.125 g, 0.283 mmol) and morpholine (0.123 g, 1.4 mmol) in EtOH (3 ml) is heated at 180° C. for 30 min by microwave. The mixture is then concentrated under vacuum and the residue purified by column chromatography on silica gel (5% MeOH in EtOAc) to give 3-fluoro-N-[4-(3-morpholin-4-yl-propoxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide as a white powder (90 mg, 64%). Mp: 70-72° C. 1H NMR (300 MHz, DMSO-d6) δ 10.23 (s, 1H), 8.23 (m, 1H), 7.86 (m, 1H), 7.56 (m, 2H), 7.45 (s, 1H), 7.42 (d, J=8.1, Hz, 1H), 7.16 (d, J=9.0 Hz, 1H), 7.01 (d, J=8.1Hz, 1H), 6.93 (s, 1H), 4.23 (t, J=6.3 Hz, 2H), 3.60 (t, J=4.5 Hz, 4H), 3.29 (m, 4H), 2.55 (m, 2H), 2.42 (bs, 4H), 2.04 (q, J=6.6 Hz, 2H), 1.60 (bs, 6H). MS: 492.4 (M+1).

reactant | N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | 0.283 mmol, 0.125 g | ClCCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C25H26ClFN2O2
reactant | morpholine | 1.4 mmol, 0.123 g | N1CCOCC1 | C4H9NO
solvent | EtOH | 3 ml | CCO | C2H6O
product | 3-fluoro-N-[4-(3-morpholin-4-yl-propoxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | 90 mg, 64% | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCCN2CCOCC2)C=C(C1)N1CCCCC1 | C29H34FN3O3
